US06949648B2
A solution of ethyl 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (1.0 g, 3.2 mmol) and sodium azide (0.23 g, 3.5 mmol) in N,N-dimethylformamide (5 mL) was heated and stirred at 100° C. for 30 minutes. The solution was cooled to room temperature, and poured into water, and the resulting solution was made basic by the addition of an aqueous sodium hydroxide solution, and organic matter was extracted with chloroform. The extract was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give ethyl 4-azido-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate. To a solution of the ethyl 4-azido-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate in ethanol (150 mL) was added 10% palladium-carbon (1.2 g, 50% hydrate), and the mixture was stirred at room temperature for 1 hour under hydrogen atmosphere. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. Purification of the residue by silica gel column chromatography (basic silica gel, ethyl acetate:methanol=93:7) gave the title compound (900 mg, 96% yield).

reactant | ethyl 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 3.2 mmol, 1.0 g | ClC1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C2=NC=CC=C2 | C15H13ClN4O2
reactant | sodium azide | 3.5 mmol, 0.23 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | ethyl 4-azido-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | N(=[N+]=[N-])C1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C2=NC=CC=C2 | C15H13N7O2
